US05728835
4-Ethoxycarbonylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide (185.0 mg, 0.39 mmol) and ethyl chloroformate (0.11 ml, 1.17 mmol), the procedure of Inventive Example 94 was repeated to obtain 80.0 mg (37.5%) of the title compound in a colorless oily form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | 0.39 mmol, 185.0 mg | NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O3
reactant | ethyl chloroformate | 1.17 mmol, 0.11 ml | ClC(=O)OCC | C3H5ClO2
product | 4-Ethoxycarbonylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | 80.0 mg, 37.5% | C(C)OC(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C31H34FN3O5
